US09227951B2
To a solution of tert-butyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate (3.0 g, 14.5 mmol), (S)-2-methylpropane-2-sulfinamide (2.6 g, 21.8 mmol) in DCM (200 mL) was added titanium isopropoxide (24.8 g, 87 mmol). The mixture was stirred at rt for 20 h then water (30 mL) was added to quench the reaction. The solid precipitate was filtered and the filtrate was concentrated and purified by flash column chromatography (petroleum ether: EtOAc, 5:1) to give (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)-1-methyl-1H-pyrrole-3-carboxylate (2.9 g, 63%). 1H NMR (CDCl3, 400 MHz) δ 8.30 (s, 1H), 7.29 (s, 1H), 7.02 (s, 1H), 3.89 (s, 3H), 1.48 (s, 9H), 1.16 (s, 9H).

reactant | tert-butyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate | 14.5 mmol, 3.0 g | C(=O)C1=CC(=CN1C)C(=O)OC(C)(C)C | C11H15NO3
reactant | (S)-2-methylpropane-2-sulfinamide | 21.8 mmol, 2.6 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | water | 30 mL | O | H2O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium isopropoxide | 87 mmol, 24.8 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (S,E)-tert-butyl 5-((tert-butylsulfinylimino)methyl)-1-methyl-1H-pyrrole-3-carboxylate | 2.9 g, 63% | C(C)(C)(C)[S@](=O)\N=C\C1=CC(=CN1C)C(=O)OC(C)(C)C | C15H24N2O3S
